US04433150
4-[2-(4-Piperidyl)-Ethyl]-Quinoline
A mixture of 13 g of 2-(4-piperidyl)-1-(4-quinolyl)-ethanone, prepared as indicated in Example 1, and 10 ml of 98% hydrazine hydrate in 150 ml of diethylene glycol is heated at 180° C. for 2 hours. After cooling, 15 g of sodium hydroxide pellets are added and the mixture is kept at 180° C. for 18 hours. The reaction mixture is diluted with water, extracted with chloroform. The organic phase is washed with water, dried and evaporated under reduced pressure. 10 g of the desired product are obtained, which is converted into the hydrochloride by the action of hydrochloric acid in ethanol. 7.2 g of 4-[2-(4-piperidyl)-ethyl]-quinoline are obtained in the form of monohydrated dihydrochloride which melts at 210° C.

reactant | 2-(4-piperidyl)-1-(4-quinolyl)-ethanone | 13 g | N1CCC(CC1)CC(=O)C1=CC=NC2=CC=CC=C12 | C16H18N2O
reactant | hydrazine hydrate | 10 ml | O.NN
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
solvent | diethylene glycol | 150 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 4-[2-(4-Piperidyl)-Ethyl]-Quinoline | 10 g | N1CCC(CC1)CCC1=CC=NC2=CC=CC=C12 | C16H20N2
